US04555519
1H-Imidazole-1-butanamine
A mixture of 0.2 mole of 2-[4-(1H-imidazol-1-yl)butyl]-1H-isoindole-1,3(2H)-dione, 0.22 mole of hydrazine hydrate and 400 ml of ethanol was heated on a steam bath for 3 hours and then treated with 400 ml of 3N hydrochloric acid and then heated at reflux for an additional 2 hours. The insoluble material was filtered off and the mother liquor was concentrated to a low volume and again filtered. The remainder of the volatile material was distilled off and the residue was treated with saturated potassium carbonate solution. The 1H-imidazole-1-butanamine was extracted into methylene chloride and further purified by distillation on a Kugelrohr apparatus. In like manner from the appropriate 2-[ω-(1H-imidazol-1-yl)alkyl]-1H-isoindole-1,3(2H)-diones were prepared 1H-imidazole-1-pentanamine; 1H-imidazole-1-hexanamine; 1H-imidazole-1-heptanamine; and 1H-imidazole-1-octanamine.

reactant | 2-[4-(1H-imidazol-1-yl)butyl]-1H-isoindole-1,3(2H)-dione | 0.2 mole | N1(C=NC=C1)CCCCN1C(C2=CC=CC=C2C1=O)=O | C15H15N3O2
reactant | hydrazine hydrate | 0.22 mole | O.NN
reactant | hydrochloric acid | 3N, 400 ml | Cl | ClH
reactant | 1H-imidazole-1-hexanamine | N1(C=NC=C1)CCCCCCN | C9H17N3
reactant | 1H-imidazole-1-heptanamine | N1(C=NC=C1)CCCCCCCN | C10H19N3
reactant | 1H-imidazole-1-octanamine | N1(C=NC=C1)CCCCCCCCN | C11H21N3
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 1H-Imidazole-1-butanamine | N1(C=NC=C1)CCCCN | C7H13N3
